US07238808B2
5-Bromo-N-(2-hydroxy-ethyl)-2-methyl-benzenesulfonamide
Prepared by general procedure III from 5-Bromo-2-methyl-benzenesulfonyl chloride (1.6 g, 6 mmol, synthesized according to J. Am. Chem. Soc., 1940, 62, 511–514) and ethanolamine (1.0 mL, 17 mmol) to give the title compound (1.02 g, 58%) as a pale-yellow solid. MS (ISP) 294.1[(M+H)+], 296.2[(M+2+H)+].

reactant | 5-Bromo-2-methyl-benzenesulfonyl chloride | 6 mmol, 1.6 g | BrC=1C=CC(=C(C1)S(=O)(=O)Cl)C | C7H6BrClO2S
reactant | ethanolamine | 17 mmol, 1.0 mL | C(O)CN | C2H7NO
product | 5-Bromo-N-(2-hydroxy-ethyl)-2-methyl-benzenesulfonamide | 1.02 g, 58% | BrC=1C=CC(=C(C1)S(=O)(=O)NCCO)C | C9H12BrNO3S
